US06150479
2. Cyclohexenyl Methanol Methacrylate ("CHMA")
CHMA was prepared by the above procedure from cyclohexenyl methanol (200 grams, 1.79 mole), methacrylic acid (137.6 grams, 1.60 mole), p-toluenesulfonic acid (15.2 grams, 80 mmole), MEHQ (8 grams, 5.7 mmole), and toluene (1000 ml) in a 2 liter reaction flask. The aqueous washes were performed with 400 ml portions for each wash. The CHMA was obtained in an amount of 225.9 grams (78% yield). The CHMA was determined to have a boiling point in the range of 64-66° C. at a reduced pressure of 0.3 Torr.

reactant | cyclohexenyl methanol | 1.79 mole, 200 grams | C1(=CCCCC1)CO | C7H12O
reactant | methacrylic acid | 1.60 mole, 137.6 grams | C(C(=C)C)(=O)O | C4H6O2
reactant | p-toluenesulfonic acid | 80 mmole, 15.2 grams | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | MEHQ | 5.7 mmole, 8 grams | COC1=CC=C(C=C1)O | C7H8O2
solvent | toluene | 1000 ml | C1(=CC=CC=C1)C | C7H8
product | Cyclohexenyl Methanol Methacrylate | 78% yield | C(C(=C)C)(=O)OCC1=CCCCC1 | C11H16O2
